US09163008B2
To a suspension of 6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methyl sulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide (0.308 g, 0.596 g) in 85:15 DCM/MeOH (5 mL) was added 4M HCl in dioxane (1.0 mL). After 1 hour, water (0.5 mL) was added and a solid formed. After 1 hour, the solid was filtered and washed successively twice with 2 mL DCM, twice with 1 mL MeOH, once with 3 mL MeOH, and twice with 1 mL DCM. The solid was dried under vacuum at 40° C. to give 6-(N-(2,3-dihydroxypropyl)methylsulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide as a white powder (0.200 g, 0.420 mmol, 70% yield). 1H NMR (400 MHz, DMSO-d6): 8.63-8.54 (3H, m), 8.01 (1H, s), 7.84 (1H, s), 7.33-7.26 (2H, m), 7.23-7.17 (2H, m), 7.09 (2H, d, J=8.8 Hz), 5.08 (1H, d, J=5.5 Hz), 4.80 (1H, t, J=5.7 Hz), 4.31-4.24 (1H, m), 4.05-3.96 (1H, m), 3.86-3.77 (1H, m), 3.54 (3H, s), 3.45-3.35 (2H, m). LC/MS: m/z=477.1 [M+H]+.

reactant | 6-(N-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)methyl sulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.308 g | CC1(OCC(O1)CN(S(=O)(=O)C)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N)C | C24H25FN4O6S
reactant | DCM MeOH | 5 mL | C(Cl)Cl.CO
reactant | HCl | 4M | Cl | ClH
reactant | water | 0.5 mL | O | H2O
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 6-(N-(2,3-dihydroxypropyl)methylsulfonamido)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxamide | 0.420 mmol, 0.200 g, 70% yield | OC(CN(S(=O)(=O)C)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)N)CO | C21H21FN4O6S
